US08981101B2
Preparation of 5-(2-methyl-1 H-pyrrolo[2,3-b]pyridin-3-yl)isoquinoline (“A15”) [alternative preparation method]
5 ml of dioxane and 0.5 ml of water are added to a mixture, kept under argon, of 179 g (0.5 mmol) of tert-butyl 3-iodo-2-methyl-1H-pyrrolo[2,3-b]-pyridine-1-carboxylate, 87 mg (0.5 mmol) of isoquinoline-5-boronic acid, 159 mg (1.5 mmol) of sodium carbonate and 57 mg (0.05 mmol) of [1,1′bis(diphenylphosphino)ferrocene]palladium(II) dichloride/dichloromethane adduct. The mixture is stirred at 100° C. in a sealed vessel for 26 hours. The reaction mixture is cooled to room temperature, evaporated, and the residue is chromatographed on a silica-gel column with dichloromethane/methanol as eluent: 5-(2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)isoquinoline as colourless solid.

reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | tert-butyl 3-iodo-2-methyl-1H-pyrrolo[2,3-b]-pyridine-1-carboxylate | 0.5 mmol, 179 g | IC1=C(N(C2=NC=CC=C21)C(=O)OC(C)(C)C)C | C13H15IN2O2
reactant | isoquinoline-5-boronic acid | 0.5 mmol, 87 mg | C1=NC=CC=2C(=CC=CC12)B(O)O | C9H8BNO2
reactant | sodium carbonate | 1.5 mmol, 159 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | [1,1′bis(diphenylphosphino)ferrocene]palladium(II) dichloride dichloromethane | 0.05 mmol, 57 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 0.5 ml | O | H2O
product | 5-(2-methyl-1 H-pyrrolo[2,3-b]pyridin-3-yl)isoquinoline | CC1=C(C=2C(=NC=CC2)N1)C1=C2C=CN=CC2=CC=C1 | C17H13N3
